US06909009B2
Synthesis of 1,3-bis(hydroxymethyl)ferrocene
To a stirring suspension of 60 mg (15.7 mmol) of lithium aluminum hydride in 30 ml of ether was added dropwise to a solution of 150 mg (0.56 mmol) of 1-ethoxycarbonyl-3-formylferrocene in ether (30 ml). Stirring was continued for 4.5 hours at room temperature. The mixture was then quenched with saturated aqueous solution of NH4Cl, and 30 ml of ether was added to the resulting solution. After separation of the organic and aqueous layers, the latter was extracted twice with ether and the combined organic solutions were then washed with water and dried over Na2SO4. Evaporation of the solvent yielded 100 mg (77.5%) of yellow crystals. Selected NMR data 1H (acetone-d6, 22° C.): δ4.11 (s, 5H,C5H5), 4.13 (d, 2H, 4.5-H), 4.25 (t,1H, 2-H), 429 (s, 4H, CH2)

reactant | lithium aluminum hydride | 15.7 mmol, 60 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-ethoxycarbonyl-3-formylferrocene | 0.56 mmol, 150 mg | C(C)OC(=O)[C-]1C=C(C=C1)C=O.[CH-]1C=CC=C1.[Fe+2]
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 1,3-bis(hydroxymethyl)ferrocene | 100 mg, 77.5% | OC[C-]1C=C(C=C1)CO.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C7H9O2.C5H5.Fe/c8-4-6-1-2-7(3-6)5-9;1-2-4-5-3-1;/h1-3,8-9H,4-5H2;1-5H;/q2*-1;+2
